US08957068B2
(S)-3-(2-((S)-1-(4-(chloromethyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one
To a solution of (S)-3-(2-((S)-1-(4-(hydroxymethyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one (71 mg, 0.2 mmol) in DCM (2 mL) was added methanesulfonyl chloride (27 mg, 0.24 mmol) and DIPEA (0.070 mL, 0.4 mmol). The solution was stirred for 16 h at room temperature then washed with water and brine. After separation, the organic phase was dried over Na2SO4, filtered and concentrated. The crude product was used to next step without further purification.

reactant | (S)-3-(2-((S)-1-(4-(hydroxymethyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 0.2 mmol, 71 mg | OCC1=CC=C(C=C1)[C@H](C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C19H24N4O3
reactant | methanesulfonyl chloride | 0.24 mmol, 27 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | DIPEA | 0.4 mmol, 0.070 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(2-((S)-1-(4-(chloromethyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one | ClCC1=CC=C(C=C1)[C@H](C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C19H23ClN4O2
